US08754226B2
(S)-tert-butyl 3-(benzyloxycarbonylamino)-2-oxo-1,4′-bipiperidine-1′-carboxylate (20.9 g, 48.4 mmol) was dissolved in methanol (250 mL). 10% Pd/C (500 mg) was added and stirred under balloon pressure hydrogen overnight. The reaction was filtered through celite and concentrated. The residue was purified over silica gel (50-100% EtOAc in hexanes followed by 5% ammoniated methanol in CH2Cl2) to afford (S)-tert-butyl 3-amino-2-oxo-1,4′-bipiperidine-1′-carboxylate (11.2 g, 37.7 mmol, 77.8% yield) as white solid.

reactant | (S)-tert-butyl 3-(benzyloxycarbonylamino)-2-oxo-1,4′-bipiperidine-1′-carboxylate | 48.4 mmol, 20.9 g | C(C1=CC=CC=C1)OC(=O)N[C@@H]1C(N(CCC1)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C23H33N3O5
reactant | hydrogen | [H][H] | H2
solvent | methanol | 250 mL | CO | CH4O
catalyst | Pd/C | 500 mg | [Pd] | Pd
product | (S)-tert-butyl 3-amino-2-oxo-1,4′-bipiperidine-1′-carboxylate | 37.7 mmol, 11.2 g, 77.8% yield | N[C@@H]1C(N(CCC1)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C15H27N3O3
